US05750549
2-Methoxy-5-(pyridin-2-yl)benzaldehyde
The title compound was prepared by employing the method described in Example 111, Step A with (3-formyl-4-methoxyphenyl)boronic acid and the commercially available 2-bromopyridine.

reactant | (3-formyl-4-methoxyphenyl)boronic acid | C(=O)C=1C=C(C=CC1OC)B(O)O | C8H9BO4
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 2-Methoxy-5-(pyridin-2-yl)benzaldehyde | COC1=C(C=O)C=C(C=C1)C1=NC=CC=C1 | C13H11NO2
